US04590192
6-Methylcarbamoylamino-3-ethoxy-benzoisothiazole-1,1-dioxide
Following the procedures outlined in Description 4a, 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide (0.23 g) was reacted with methyl isocyanate for 3 days to give the title compound.

reactant | 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide | 0.23 g | NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C9H10N2O3S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 6-Methylcarbamoylamino-3-ethoxy-benzoisothiazole-1,1-dioxide | CNC(=O)NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C11H13N3O4S
